US06635655B1
6-Methoxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one
To a cooled solution (−5°-0° C.) of 6-methoxy-3,3-dimethyl-1,3-dihydro-indol-2-one (600 mg, 3.14 mmol) in THF (10.5 mL) is added 60% NaH (132 mg, 3.30 mmol) and the mixture stirred for 15 min. Add dropwise to the reaction mixture iodomethane (215 μL, 3.45 mmol), the cold bath is removed and stirred for 2 hrs. The reaction is quenched with sat NH4Cl soln, warmed to room temp and diluted with EtOAc.

reactant | 6-methoxy-3,3-dimethyl-1,3-dihydro-indol-2-one | 3.14 mmol, 600 mg | COC1=CC=C2C(C(NC2=C1)=O)(C)C | C11H13NO2
reactant | NaH | 3.30 mmol, 132 mg | [H-].[Na+]
reactant | iodomethane | 3.45 mmol, 215 μL | IC | CH3I
solvent | THF | 10.5 mL | C1CCOC1 | C4H8O
product | 6-Methoxy-1,3,3-trimethyl-1,3-dihydro-indol-2-one | COC1=CC=C2C(C(N(C2=C1)C)=O)(C)C | C12H15NO2
